US05925635
A mixture of 4-bromobenzyl amine (3.81 g, 20 mmol) and 3-cyanophenyl isocyanate (2.65 g, 18.4 mmol) in dimethylformamide (60 mL) was stirred at ambient temperature for 48 h. The reaction was partioned between 1N hydrochloric acid solution (200 mL) and ethyl acetate (200 mL). The ethyl acetate solution was washed with water (5×100 mL), then dried (MgSO4) and evaporated to give 5.33 g of N-(3-cyanophenyl)-N'-(methyl(4-bromo)phenyl)urea.

reactant | 4-bromobenzyl amine | 20 mmol, 3.81 g | BrC1=CC=C(CN)C=C1 | C7H8BrN
reactant | 3-cyanophenyl isocyanate | 18.4 mmol, 2.65 g | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | N-(3-cyanophenyl)-N'-(methyl(4-bromo)phenyl)urea | 5.33 g | C(#N)C=1C=C(C=CC1)NC(=O)NC1=C(C=C(C=C1)Br)C | C15H12BrN3O
